US05275950
2-Amino-1-cyclohexyl-3,4-dihydroxy-6-methylheptane
(2S,3R,4S)-2-[(tert-Butyloxycarbonyl)amino]-1-cyclohexyl-3,4-dihydroxy-6-methylheptane (5.05 g, 14.7 mmol, Luly et al., J. Org. Chem. 1988, 53, 6109) was stirred for 90 min in 4M hydrochloric acid in ethanol and then evaporated. Ether was added and evaporated 3 times and the residue was dried under high vacuum. The title compound was used without further purification.

reactant | (2S,3R,4S)-2-[(tert-Butyloxycarbonyl)amino]-1-cyclohexyl-3,4-dihydroxy-6-methylheptane | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@H]([C@H](CC(C)C)O)O | C19H37NO4
solvent | hydrochloric acid | 4M | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-1-cyclohexyl-3,4-dihydroxy-6-methylheptane | NC(CC1CCCCC1)C(C(CC(C)C)O)O | C14H29NO2
